US07176212B2
4-(2-Fluoro-5-methylanilino)-2-(4-hydroxyanilino)pyrimidine
4-(2-Fluoro-5-methylanilino)-2-chloropyrimidine (Reference Example A-10, 1.00 g, 4.2 mmol) was dissolved in NMP (5 ml) and 4-hydroxyaniline (0.41 g, 3.7 mmol) and 1M HCl in diethyl ether (4.22 ml, 4.2 mmol) was added. The reaction mixture was heated at 100° C. for 15 hours, and then allowed to cool to ambient temperature. The mixture was evaporated under high vacuum to give the title product as a brown oil. The residue was purified by chromatography on a Mega Bond Elute column (10 g) eluting with DCM (4×25 ml), 2% NH3/MeOH in DCM (3×25 ml), 4% NH3/MeOH in DCM (3×25 ml), 6% NH3/MeOH in DCM (10×25 ml to give the title product as a white solid (0.80 g, 61%). NMR (300 MHz): 2.2 (s, 3H), 6.2 (d, 1H), 6.6 (d, 2H), 6.9 (m, 1H), 7.1 (m, 1H), 7.4 (d, 2H), 7.8 (d, 1H), 7.9 (d, 1H), 8.7 (s, 1H), 8.8 (s, 1H), 8.9 (s, 1H); m/z: (ES+) 311.0 (MH+).

reactant | 4-(2-Fluoro-5-methylanilino)-2-chloropyrimidine | 4.2 mmol, 1.00 g | FC1=C(NC2=NC(=NC=C2)Cl)C=C(C=C1)C | C11H9ClFN3
reactant | 4-hydroxyaniline | 3.7 mmol, 0.41 g | OC1=CC=C(N)C=C1 | C6H7NO
reactant | HCl | 1M | Cl | ClH
reactant | diethyl ether | 4.2 mmol, 4.22 ml | C(C)OCC | C4H10O
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | 4-(2-Fluoro-5-methylanilino)-2-(4-hydroxyanilino)pyrimidine | FC1=C(NC2=NC(=NC=C2)NC2=CC=C(C=C2)O)C=C(C=C1)C | C17H15FN4O
